US07119122B2
2-Fluoro-4-hydroxybenzonitrile (0.50 g, 3.7 mmol), potassium carbonate (0.53 g, 3.8 mmol) and iodomethane (0.34 mL, 0.78 g, 5.5 mmol) in dry DMF (5 mL) were stirred at ambient temperature for 21 h. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with 1N sodium hydroxide solution (2×), water (3×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 2-fluoro-4-methoxy-benzonitrile (0.54 g, 98%) as a white crystalline solid.

reactant | 2-Fluoro-4-hydroxybenzonitrile | 3.7 mmol, 0.50 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | potassium carbonate | 3.8 mmol, 0.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 5.5 mmol, 0.34 mL, 0.78 g | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-4-methoxy-benzonitrile | 0.54 g, 98% | FC1=C(C#N)C=CC(=C1)OC | C8H6FNO
